US05470850
A stirred mixture of 2.50 g (0.011 mole) sodium sulfide and 0.60 g (0.011 mole) ammonium chloride in 10 ml n-propanol was warmed to reflux temperature and a solution of 0.44 g (0.0011 mole) 8-chloro-5-(5-nitro-2,3-dihydrobenzofuran-7-yl)-7-methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine was added dropwise and reflux was continued for 16 h. The solvent was removed in vacuo and the residue was redissolved in dichloromethane. The solution was washed with 0.1N NaOH, water and brine. Evaporation yielded 8-chloro-5-(5-amino-2,3-dihydrobenzofuran-7-yl)-7-methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine as a foam.

reactant | sodium sulfide | 0.011 mole, 2.50 g | [S-2].[Na+].[Na+]
reactant | ammonium chloride | 0.011 mole, 0.60 g | [Cl-].[NH4+]
reactant | 8-chloro-5-(5-nitro-2,3-dihydrobenzofuran-7-yl)-7-methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.0011 mole, 0.44 g | ClC=1C(=CC2=C(CCN(CC2C2=CC(=CC=3CCOC32)[N+](=O)[O-])C)C1)OC | C20H21ClN2O4
solvent | n-propanol | 10 ml | C(CC)O | C3H8O
product | 8-chloro-5-(5-amino-2,3-dihydrobenzofuran-7-yl)-7-methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC=1C(=CC2=C(CCN(CC2C2=CC(=CC=3CCOC32)N)C)C1)OC | C20H23ClN2O2
